US04115058
p-Chlorobenzenesulfonic anhydride was prepared, as described in the previous example, by reacting 9.4 g (0.12 mole) of sulfur trioxide with 6.0 g (0.054 mole) of chlorobenzene. There was obtained 5.7 g (57.2% yield) of product with mp 140.0°-147.3° C. (lit. 130°-141° C. Christensen, Acta Chem. Scand. 15, 1507 (1961); lit. mp for p-chlorobenzenesulfonic acid =50.5° C., Dictionary of Org. Cpds., Vol. 2, 4th Edition, Oxford Univ. Press, N.Y., p. 601). Anal: Calc'd for C12H8O5S2Cl2 : C, 39.23; H, 2.17; S, 17.34. Found: C, 39.20; H, 2.50; S, 17.61.

reactant | sulfur trioxide | 0.12 mole, 9.4 g | S(=O)(=O)=O | O3S
reactant | chlorobenzene | 0.054 mole, 6.0 g | ClC1=CC=CC=C1 | C6H5Cl
reactant | p-chlorobenzenesulfonic acid | ClC1=CC=C(C=C1)S(=O)(=O)O | C6H5ClO3S
product | p-Chlorobenzenesulfonic anhydride | ClC1=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)Cl | C12H8Cl2O5S2
